US09446995B2
FIG. 7—Synthesis of Tryptamine Analogue R-(5)
To a solution of (S)-4b (30 mg) in dichloroethane (1 mL) cooled at −5° C. was dropwise added AgClO4. The resulting mixture was stirred for 15 min at the same temperature and added to a solution of indole (50 mg) in dichloroethane (1 mL) warmed in a reaction flask. The reaction mixture was stirred for 10 h at 50° C. and treated with saturated NH4Cl (mL), and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to the dryness. The residue was purified by silica gel (60-230 mesh) column chromatography eluted with 10% ethyl acetate in hexanes to afford 5. [α]26D=+190.3 (c=0.1, CHCl3).

reactant | indole | 50 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NH4Cl | [NH4+].[Cl-]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
reactant | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | Tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
